US08957203B2
A solution of 6-methoxy-3-(trifluoromethyl)isoquinolin-1-ol (271 mg, 1.114 mmol) in POCl3 (3 mL) was refluxed for 4 h. After concentration, the residue was taken into a mixture of 100 mL of DCM and 50 mL of water, cooled to 0° C., neutralized with 3 N NaOH, dried over MgSO4, concentrated and purified via silica gel chromatography (5-20% EtOAc:Hex) to give the pure product 1-chloro-6-methoxy-3-(trifluoromethyl)isoquinoline (250 mg, 0.956 mmol, 86% yield) as an orange solid. MS: MS m/z 262.1(M++1).

reactant | 6-methoxy-3-(trifluoromethyl)isoquinolin-1-ol | 1.114 mmol, 271 mg | COC=1C=C2C=C(N=C(C2=CC1)O)C(F)(F)F | C11H8F3NO2
reactant | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6-methoxy-3-(trifluoromethyl)isoquinoline | 0.956 mmol, 250 mg, 86% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)C(F)(F)F | C11H7ClF3NO
